US04774266
Synthesis of N-Vinylbenzyle 5 -Phenyltetrazole
Vinylbenzyl chloride (0.10 mole; 15.3 g, 60 percent meta-/40 percent para; Dow Experimental Monomer XC1915.00 stabilized with 5-butyl catechol (50 ppm) and nitromethane (700-1000 ppm)) was dissolved in 2-methoxyethanol (250 ml). This solution was added to a solution of sodium 5-phenyltetrazole (0.11 mole; 18.5 g) in 2-methoxyethanol and the reactants heated at 100° C. / 15 hours. The mixture was quenched with H2O (700 ml), extracted with CH2Cl2 (2×200 ml), the extracts washed with H2O (500 ml) and concentrated to give a viscous liquid (weight 26.0 g; 98.8 percent , yield). Mass spectral assay (electron impact and chemical ionization) showed a molecular weight ion peak at 262 (theor. 262.34). 13C NMR confirmed the presence of two isomers (3.65/1 ratio) corresponding to 2-vinylbenzyl 5-phenyltetrazole and 1-vinylbenzyl 5-phenyl-tetrazole. Elemental analysis found: C, 71.06; H, 5.42; N, 20.51; Cl, 1.43. Calculation for C16H14N4 : C, 73.26; H, 5.38; N, 21.38.

reactant | Vinylbenzyl chloride | 0.10 mole, 15.3 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | sodium 5-phenyltetrazole | 0.11 mole, 18.5 g | C1(=CC=CC=C1)C1=NN=NN1.[Na]
reactant | 2-vinylbenzyl 5-phenyltetrazole | C(=C)C1=C(CN2N=NN=C2C2=CC=CC=C2)C=CC=C1 | C16H14N4
reactant | 1-vinylbenzyl 5-phenyl-tetrazole | C(=C)C1(CN2N=NN=C2C2=CC=CC=C2)CC=CC=C1 | C16H16N4
solvent | 2-methoxyethanol | 250 ml | COCCO | C3H8O2
product | 5 -Phenyltetrazole | C1(=CC=CC=C1)C1=NN=NN1 | C7H6N4
